US04279912
250 mg of ethyl 5-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate in 20 ml of ethanol and 10 ml of water was hydrolyzed with 2 ml of N sodium hydroxide solution and was then acidified with 2.2 ml of N hydrochloric acid as in Example 36 to obtain 5-methoxyimidazo-[1,2-a]-quinoline-2-carboxylic acid as colorless needles melting at 244°-247° C. The I.R. spectrum indicated that the compound existed entirely in the zwitterionic form.

reactant | ethyl 5-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate | 250 mg | COC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)OCC | C15H14N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 5-methoxyimidazo-[1,2-a]-quinoline-2-carboxylic acid | COC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)O | C13H10N2O3
